US08557983B2
4-((dimethylamino)methyl)phenol
The title compound was prepared by substituting 4-hydroxybenzaldehyde for 4′-chlorobiphenyl-2-carboxaldehyde and dimethylamine for tert-butyl piperazine-1-carboxylate in EXAMPLE 1A.

reactant | 4′-chlorobiphenyl-2-carboxaldehyde | ClC1=CC=C(C=C1)C=1C(=CC=CC1)C=O | C13H9ClO
reactant | dimethylamine | CNC | C2H7N
reactant | tert-butyl piperazine-1-carboxylate | N1(CCNCC1)C(=O)OC(C)(C)C | C9H18N2O2
product | 4-((dimethylamino)methyl)phenol | CN(C)CC1=CC=C(C=C1)O | C9H13NO
